US05912244
(3S,4S)-6-(4-tert-Butyldimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran (0.35 g) (see Preparation 14) and 3,6-dihydroxypyridazine (0.273 g) were suspended in absolute ethanol (3 ml), dry pyridine (0.065 ml) was added and the mixture was heated under reflux for 4 days. The solvent was then removed under reduced pressure and the residue chromatographed on silica with 1:99 methanol: ethyl acetate as the eluent to yield (3S,4R)-3,4-dihydro-3-hydroxy-6-(4-hydroxyphenyl)sulphonyl-4-(3-hydroxypyridazin-6-yl)oxy-2,2,3-trimethyl-2H-benzo[b]pyran (0.155 g) as a white solid, m.p.>200° C. Found: C,57.54; H,5.35; N,5.57. C22H22N2O7S, 0.20 ethyl acetate requires C,57.50; H,4.99; N,5.88%.

reactant | (3S,4S)-6-(4-tert-Butyldimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran | 0.35 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)S(=O)(=O)C1=CC2=C(OC([C@@]3([C@H]2O3)C)(C)C)C=C1 | C24H32O5SSi
reactant | 3,6-dihydroxypyridazine | 0.273 g | OC=1N=NC(=CC1)O | C4H4N2O2
reactant | pyridine | 0.065 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (3S,4R)-3,4-dihydro-3-hydroxy-6-(4-hydroxyphenyl)sulphonyl-4-(3-hydroxypyridazin-6-yl)oxy-2,2,3-trimethyl-2H-benzo[b]pyran | 0.155 g | O[C@]1([C@@H](C2=C(OC1(C)C)C=CC(=C2)S(=O)(=O)C2=CC=C(C=C2)O)OC2=CC=C(N=N2)O)C | C22H22N2O7S
